US04134980
1-(6,7-Dimethoxy-4(3H)-quinazolinone-3-yl)-3-[N-benzyl-N-(2-(3,4-dimethoxy-phenyl)-ethyl)-amino]-propane was prepared analogous to Example 1 (a) by reaction of 1-(6,7-dimethoxy-4(3H)-quinazolinone-3-yl)-3-chloro-propane with N-(3,4-dimethoxy-phenylethyl)-N-benzyl amine in chlorobenzene. Rf -value (chloroform/methanol = 9.1) : 0.75.

reactant | 1-(6,7-dimethoxy-4(3H)-quinazolinone-3-yl)-3-chloro-propane | COC=1C=C2C(N(C=NC2=CC1OC)CCCCl)=O | C13H15ClN2O3
reactant | N-(3,4-dimethoxy-phenylethyl)-N-benzyl amine | COC=1C=C(C=CC1OC)CCNCC1=CC=CC=C1 | C17H21NO2
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 1-(6,7-Dimethoxy-4(3H)-quinazolinone-3-yl)-3-[N-benzyl-N-(2-(3,4-dimethoxy-phenyl)-ethyl)-amino]-propane | COC=1C=C2C(N(C=NC2=CC1OC)CCCN(CCC1=CC(=C(C=C1)OC)OC)CC1=CC=CC=C1)=O | C30H35N3O5
